US04476131
dl-7-Hydroxy-6-(3-hydroxypentyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline
A solution of 598 mg. (1.42 mmole) dl-6-(2-formylethyl)-7-hydroxy-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline in 10 ml. ethyl ether is cooled in ice for 15 minutes. From a syringe, 1.58 ml. of 2.9M ethyl magnesium iodide is added slowly with stirring. The reaction mixture was allowed to warm to room temperature and stirred for three hours. Ammonium chloride crystals (ca. 100 mg.) was added to consume the unreacted Grignard reagent and the mixture stirred for 20 minutes. Ethyl acetate, 75 ml., and water, 50 ml., were added, the mixture stirred for a few minutes, and the layers separated. The aqueous layer was extracted with 50 ml. of ethyl acetate and the combined organic layers washed with 50 ml. each of water, brine and water again. The organic layer was dried over anhydrous magnesium sulfate and solvent evaporated in vacuo to obtain the crude product which is purified, if desired, by chromatography.

reactant | dl-6 (2-formylethyl)-7-hydroxy-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline | 1.42 mmole | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.C(=O)CCC1CCCC2N1C1=CC(=CC(=C1CC2)O)OC(C)CCCC2=CC=CC=C2
reactant | ethyl magnesium iodide | 2.9M | C(C)[Mg]I
reactant | Ammonium chloride | ca. 100 mg | [Cl-].[NH4+]
solvent | ethyl ether | C(C)OCC | C4H10O
product | 7-Hydroxy-6-(3-hydroxypentyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline | OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CCC(CC)O | C29H41NO3
